### PR TITLE
feat: add leftmost derivations for context-free grammars

### PR DESCRIPTION
**Pull request by shetzl**
Leftmost derivations are often easier to reason about than arbitrary derivations. This PR adds leftmost variants of Rewrites, Produces and Derives to the existing definition of context-free grammars and proves that a string of terminals can be derived iff it can be leftmost derived.

Co-authored-by: Tobias Leichtfried <tobias.leichtfried@tuwien.ac.at>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 1]
```diff
@@ -0,0 +1,403 @@
...
+* `ContextFreeRule.RewritesLeftmost`: Leftmost counterpart to `ContextFreeRule.Rewrites`
+* `ContextFreeGrammar.ProducesLeftmost`: Leftmost counterpart to `ContextFreeRule.Produces`
+* `ContextFreeGrammar.DerivesLeftmost`: Leftmost counterpart to `ContextFreeRule.Derives`
+
+## Main Result
+* `ContextFreeGrammar.derives_leftmost_iff` : A string of terminals can be derived from a string of
+  symbols iff it can be leftmost derived.
+-/
+
+variable {T : Type*}
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:24]: `T N : Type*`

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 2]
```diff
@@ -0,0 +1,403 @@
...
+    use x::p, q
+    simp [hpq]
+
+theorem RewritesLeftmost.rewritesLeftmost_of_exists_parts (r : ContextFreeRule T N)
+    (p : List T) (q : List (Symbol T N)) :
+    r.RewritesLeftmost (p.map terminal ++ [nonterminal r.input] ++ q)
+      (p.map terminal ++ r.output ++ q) := by
+  induction p with
+  | nil =>
+    exact RewritesLeftmost.head q
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:61]: The style seems to be a bit inconsistent here.

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 3]
```diff
@@ -0,0 +1,403 @@
...
+  | nil => simp [hr]
+  | cons x _ ih => exact ih.cons x
+
+theorem RewritesLeftmost.append_right {r : ContextFreeRule T N}
+    {v w : List (Symbol T N)} (hr : r.RewritesLeftmost v w) (p : List (Symbol T N)) :
+    r.RewritesLeftmost (v ++ p) (w ++ p) := by
+  obtain ⟨s, t, rfl, rfl⟩ := hr.exists_parts
+  simpa using rewritesLeftmost_of_exists_parts r s (t ++ p)
+
+theorem rewrites_of_rewritesLeftmost {r : ContextFreeRule T N}
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:103]: I think `RewritesLeftmost.rewrites` could be a better name.

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 4]
```diff
@@ -0,0 +1,403 @@
...
+    (∃ (u₁ u₂ : List (Symbol T N)), u = u₁ ++ u₂ ∧ (r.RewritesLeftmost v₁ u₁ ∧ u₂ = v₂)) ∨
+    (∃ (w₁ : List T) (u₂ : List (Symbol T N)),
+      u = w₁.map terminal ++ u₂ ∧ (v₁ = w₁.map terminal ∧ r.RewritesLeftmost v₂ u₂)) := by
+  induction v₁ generalizing u with
+  | nil =>
+    right
+    exact ⟨[], u, by simp, by simp, h⟩
+  | cons x v₁' ih =>
+    rw [List.cons_append] at h
+    apply rewritesLeftmost_cons at h
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:136]: I suggest merging with the next line.

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 5]
```diff
@@ -0,0 +1,403 @@
...
+    obtain ⟨u₁, u₂, h⟩|⟨w₁,u₂, h⟩ := h
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:137]:
```suggestion
    obtain ⟨u₁, u₂, h⟩|⟨w₁, u₂, h⟩ := h
```

Comment (madvorak) [reply Mathlib/Computability/LeftmostDerivation.lean:137]: Not sure whether `|` should be surrounded by spaces.

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 6]
```diff
@@ -0,0 +1,403 @@
...
+      use u₁++v₁', v₂
+      refine ⟨by simp_all, ?_, rfl⟩
+      rw [← List.singleton_append]
+      apply RewritesLeftmost.append_right
+      exact h.2.1
+    · obtain ⟨u₂₁, u₂₂, hu⟩|⟨w₂₁, u₂₂, hu⟩ := ih h.2.2
+      · left
+        use w₁.map terminal ++ u₂₁, v₂
+        refine ⟨by simp_all, ?_, rfl⟩
+        rw [← List.singleton_append,h.2.1]
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:148]:
```suggestion
        rw [← List.singleton_append, h.2.1]
```

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 7]
```diff
@@ -0,0 +1,403 @@
...
+        · rw [← List.singleton_append, h.2.1, hu.2.1]
+          simp
+
+theorem rewrites_cons {r : ContextFreeRule T N} {x : Symbol T N} {v u : List (Symbol T N)}
+    (h : r.Rewrites (x :: v) u) :
+    ∃ (u₁ u₂ : List (Symbol T N)), u = u₁ ++ u₂ ∧
+      ((r.Rewrites [x] u₁ ∧ u₂ = v) ∨ (r.Rewrites v u₂ ∧ [x] = u₁)) := by
+  rcases h with ⟨s⟩|@⟨x, _, s₂, hrs⟩
+  · use r.output, v
+    refine ⟨rfl, ?_⟩
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:163]: I think it can be merged with the line above.

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 8]
```diff
@@ -0,0 +1,403 @@
...
+    (∃ (u' : List (Symbol T g.NT)), u = u' ++ v ∧ g.DerivesLeftmost [x] u') ∨
+    (∃ (w₁ : List T) (u₂ : List (Symbol T g.NT)), u = w₁.map terminal ++ u₂ ∧
+      g.DerivesLeftmost [x] (w₁.map terminal) ∧ g.DerivesLeftmost v u₂) := by
+  induction h with
+  | refl =>
+    left
+    use [x]
+    exact ⟨by simp, by rfl⟩
+  | tail _ last ih =>
+    obtain ⟨u₁,hu⟩|⟨w₁,u₂,hu⟩ := ih
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:309]:
```suggestion
    obtain ⟨u₁, hu⟩|⟨w₁, u₂, hu⟩ := ih
```

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 9]
```diff
@@ -0,0 +1,403 @@
...
+    use huv.1
+    rcases huv.2 with huv|huv
+    · use hu₂.1.trans_produces ⟨r, hr, huv.1⟩
+      convert hu₂.2
+      exact huv.2.symm
+    · rw [huv.2.symm]
+      exact ⟨hu₂.1, hu₂.2.trans_produces ⟨r, hr, huv.1⟩⟩
+
+theorem derivesLeftmost_iff {w : List T} {α : List (Symbol T g.NT)} :
+    g.DerivesLeftmost α (w.map terminal) ↔ g.Derives α (w.map terminal) := by
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:370]: Nice!

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 10]
```diff
@@ -0,0 +1,403 @@
...
+    · obtain ⟨u₂₁, hu₂⟩|⟨w₂₁, u₂₂, hu₂⟩ := ih hu.2.2
+      · left
+        exact ⟨w₁.map terminal ++ u₂₁, by simp_all,
+          (hu.2.1.append_right v₁').trans (hu₂.2.append_left w₁)⟩
+      · right
+        use w₁++w₂₁, u₂₂
+        rw [List.map_append]
+        exact ⟨by simp_all, (hu.2.1.append_right v₁').trans (hu₂.2.1.append_left w₁), hu₂.2.2⟩
+
+theorem derives_cons {x : Symbol T g.NT} {v u : List (Symbol T g.NT)} (h : g.Derives (x :: v) u) :
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:349]: Does it belong into this file?

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 11]
```diff
@@ -0,0 +1,403 @@
...
+    (h : g.DerivesLeftmost (v₁ ++ v₂) u) :
+    (∃ (u' : List (Symbol T g.NT)), u = u' ++ v₂ ∧ g.DerivesLeftmost v₁ u') ∨
+    (∃ (w₁ : List T) (u₂ : List (Symbol T g.NT)), u = w₁.map terminal ++ u₂ ∧
+      g.DerivesLeftmost v₁ (w₁.map terminal) ∧ g.DerivesLeftmost v₂ u₂) := by
+  induction v₁ generalizing u with
+  | nil =>
+    right
+    exact ⟨[], u, by simp_all, by rfl, by simp_all⟩
+  | cons x v₁' ih =>
+    apply derivesLeftmost_cons at h
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:336]: Again, it can be merged with the next line.

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 12]
```diff
@@ -0,0 +1,403 @@
...
+  | tail _ last ih => exact ih.trans_produces <| last.append_right p
+
+theorem produces_of_produces_leftmost {u v : List (Symbol T g.NT)} (h : g.ProducesLeftmost u v):
+    g.Produces u v := by
+  obtain ⟨r,hr⟩ := h
+  use r, hr.1
+  apply ContextFreeRule.rewrites_of_rewritesLeftmost
+  exact hr.2
+
+theorem derives_of_derivesLeftmost {u v : List (Symbol T g.NT)} (h : g.DerivesLeftmost u v) :
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:292]: I think `DerivesLeftmost.derives` could be a better name.

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 13]
```diff
@@ -0,0 +1,403 @@
...
+      rw [hv.2, List.append_assoc] at ih
+      obtain ⟨u₁, hu⟩|⟨w₁, u₂, hu⟩ := derivesLeftmost_append ih
+      · obtain ⟨w₁₁, w₂₂, hw⟩ := List.map_eq_append_iff.mp hu.1
+        have hderiv₁ : g.DerivesLeftmost ([nonterminal r.input] ++ v₂) (r.output ++ v₂) := by
+          apply ProducesLeftmost.single
+          use r, hr
+          rw [ContextFreeRule.RewritesLeftmost.rewritesLeftmost_iff]
+          use [], v₂
+          simp
+        have hderiv₂ := DerivesLeftmost.append_left hderiv₁ w₁₁
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:389]: `hderiv₁.append_left`

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 14]
```diff
@@ -0,0 +1,403 @@
...
+        rw [hw.2.1] at hderiv₂
+        have hderiv₃ :=  DerivesLeftmost.append_right hu.2 ([nonterminal r.input] ++ v₂)
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:391]: `hu.2.append_right`

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 15]
```diff
@@ -0,0 +1,403 @@
...
+        convert DerivesLeftmost.trans hderiv₃ hderiv₂ <;> simp_all
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:392]: `hderiv₃.trans`

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 16]
```diff
@@ -0,0 +1,403 @@
...
+    induction h using Relation.ReflTransGen.head_induction_on with
+    | refl => rfl
+    | head first _ ih =>
+      obtain ⟨r, hr, first⟩ := first
+      rw [ContextFreeRule.rewrites_iff] at first
+      obtain ⟨v₁, v₂, hv⟩ := first
+      rw [hv.2, List.append_assoc] at ih
+      obtain ⟨u₁, hu⟩|⟨w₁, u₂, hu⟩ := derivesLeftmost_append ih
+      · obtain ⟨w₁₁, w₂₂, hw⟩ := List.map_eq_append_iff.mp hu.1
+        have hderiv₁ : g.DerivesLeftmost ([nonterminal r.input] ++ v₂) (r.output ++ v₂) := by
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:383]: Is `::` or `++` more convenient here?

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 17]
```diff
@@ -0,0 +1,403 @@
...
+    simp
+  · use [x], s₂
+    constructor
+    · simp
+    · right
+      exact ⟨hrs, rfl⟩
+
+/-- If `r` rewrites `v₁++v₂` to `u`, than one of two options is the case:
+Either the rewrite happens in `v₁` and `v₂` remains unchanged or vice versa. -/
+theorem rewrites_append {r : ContextFreeRule T N}{v₁ v₂ u : List (Symbol T N)}
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:177]:
```suggestion
theorem rewrites_append {r : ContextFreeRule T N} {v₁ v₂ u : List (Symbol T N)}
```

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 18]
```diff
@@ -0,0 +1,403 @@
+/-
+Copyright (c) 2024 Tobias Leichtfried. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Tobias Leichtfried
+-/
+import Mathlib.Computability.ContextFreeGrammar
+
+/-!
+# Leftmost Deriviations in Context-Free Gammars
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:9]:
```suggestion
# Leftmost Deriviations in Context-Free Grammars
```

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 19]
```diff
@@ -0,0 +1,403 @@
...
+
+/-- No rule can rewrite a string only consisting of terminals-/
+theorem RewritesLeftmost.rewrite_terminal (r : ContextFreeRule T N) (w : List T)
+    (u : List (Symbol T N)): ¬ RewritesLeftmost r (w.map terminal) u := by
+  intro h
+  rw [rewritesLeftmost_iff] at h
+  obtain ⟨p, q, h₁, _⟩ := h
+  obtain ⟨l₁, _, _, h, _⟩ := List.append_eq_map_iff.mp h₁.symm
+  obtain ⟨_, l₂, _, _, h⟩ := List.append_eq_map_iff.mp h.symm
+  rcases l₂ with _|_ <;> simp_all
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:88]: Would `cases` work?

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 20]
```diff
@@ -0,0 +1,403 @@
...
+      · left
+        use w₁.map terminal ++ u₂₁, v₂
+        refine ⟨by simp_all, ?_, rfl⟩
+        rw [← List.singleton_append,h.2.1]
+        apply RewritesLeftmost.append_left
+        exact hu.2.1
+      · right
+        use (w₁++w₂₁), u₂₂
+        refine ⟨by simp_all, ?_, hu.2.2⟩
+        · rw [← List.singleton_append, h.2.1, hu.2.1]
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:154]: We do not indent when only one goal is emitted.

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 21]
```diff
@@ -0,0 +1,403 @@
...
+theorem rewrites_append {r : ContextFreeRule T N}{v₁ v₂ u : List (Symbol T N)}
+    (h : r.Rewrites (v₁ ++ v₂) u) :
+    ∃ (u₁ u₂ : List (Symbol T N)), u = u₁ ++ u₂ ∧
+      ((r.Rewrites v₁ u₁ ∧ v₂ = u₂) ∨ (r.Rewrites v₂ u₂ ∧ v₁ = u₁)) := by
+  induction v₁ generalizing u with
+  | nil => exact ⟨[], u, rfl, Or.inr ⟨h, rfl⟩⟩
+  | cons x v₁ ih =>
+    rw [List.cons_append] at h
+    apply rewrites_cons at h
+    obtain ⟨u₁,u₂,hu⟩ := h
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:186]:
```suggestion
    obtain ⟨u₁, u₂, hu⟩ := h
```

Comment (madvorak) [reply Mathlib/Computability/LeftmostDerivation.lean:186]: Also try to merge it with the line above.

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 22]
```diff
@@ -0,0 +1,403 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Tobias Leichtfried
+-/
+import Mathlib.Computability.ContextFreeGrammar
+
+/-!
+# Leftmost Deriviations in Context-Free Gammars
+
+This file contains the definition of a leftmost derivation. These are derivations
+where in each rewriting step the leftmost nonterminal instead of an arbitrary one is replaced
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:12]:
```suggestion
where in each rewriting step the leftmost nonterminal instead of an arbitrary one is replaced.
```

**Review by madvorak — COMMENTED** [review]
This is very useful, thanks!

If it were up to me, I would avoid using standalone `h` and I would not use `α` for lists. Also `open Symbol` is something I would prefer not to have. However, these are just my personal opinions, no standards!

For somewhat less subjective comments, see in the code.

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 23]
```diff
@@ -0,0 +1,403 @@
...
+  induction p with
+  | nil =>
+    exact RewritesLeftmost.head q
+  | cons x p' ih =>
+    rw [List.map_cons]
+    exact cons x ih
+
+/-- Rule `r` rewrites string `u` is to string `v` iff the share a prefix of terminal symbols, a
+postfix of terminal and nonterminal symbols, and the remaining parts are `r.input` and `r.output`
+respectively-/
```
Comment (madvorak) [inline Mathlib/Computability/LeftmostDerivation.lean:68]:
```suggestion
respectively. -/
```

File: Mathlib/Computability/LeftmostDerivation.lean (hunk 10 above)
Comment (shetzl) [reply Mathlib/Computability/LeftmostDerivation.lean:349]: No, indeed. It is not needed.

File: Mathlib/Computability/LeftmostDerivation.lean [hunk 24]
```diff
@@ -0,0 +1,382 @@
...
+      · refine ⟨x::s₁, s₂, ?_, ?_⟩
+        · rw [List.cons_append,← hs, ← List.singleton_append,hu'.2]
+          exact hu.1
+        · left
+          exact ⟨hs'.1.append_left [x], hs'.2⟩
+      · refine ⟨x::s₁, s₂, ?_, ?_⟩
+        · rw [List.cons_append,← hs, ← List.singleton_append,hu'.2]
+          exact hu.1
+        · right
+          exact ⟨hs'.1, congr_arg _ hs'.2⟩
```
Comment (YaelDillies) [inline Mathlib/Computability/LeftmostDerivation.lean:202]: Same here, this is the main branch

**Review by YaelDillies — COMMENTED** [review]
Can you please finish addressing Martin's comments above? Thanks!

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
